US09193707B2
2. Synthesis of pyrimidine-4-carboximidamide
Into a 250-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of Na (0.11 g) in methanol (100 mL). The mixture was stirred for 10 min. This was followed by the addition of pyrimidine-4-carbonitrile (10 g, 95.15 mmol, 1.00 equiv). The solution was stirred for 2 h at room temperature. To this was added NH4Cl (11 g, 205.65 mmol, 2.16 equiv). The resulting solution was stirred for 4 h at 25° C. The resulting mixture was concentrated under vacuum. The residue was dissolved in 100 mL of ethanol. The mixture was stirred for 10 min under reflux. The solids were filtered out. The filtrate was concentrated under vacuum. The solids were collected by filtration. This resulted in 5 g (33%) of pyrimidine-4-carboximidamide hydrochloride as a white solid. MS (ESI) m/z 123 ([M+H]+).

reactant | pyrimidine-4-carbonitrile | 95.15 mmol, 10 g, 1.00 equiv | N1=CN=C(C=C1)C#N | C5H3N3
reactant | NH4Cl | 205.65 mmol, 11 g, 2.16 equiv | [NH4+].[Cl-]
product | pyrimidine-4-carboximidamide | N1=CN=C(C=C1)C(N)=N | C5H6N4
